US05510345
Preparation of 2-(1,1-dimethylethylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine
4-Chloro-2-(1,1-dimethylethylamino)-6-pyrrolidinopyrimidine is reacted with piperazine as described in Example 17 to obtain the title compound in a yield of 78.1%, m.p.: 162°-165° C.

reactant | 4-Chloro-2-(1,1-dimethylethylamino)-6-pyrrolidinopyrimidine | ClC1=NC(=NC(=C1)N1CCCC1)NC(C)(C)C | C12H19ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(1,1-dimethylethylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine | yield of 78.1% | CC(C)(C)NC1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H28N6
